data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1c(C)cccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1c(C)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1c(C)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1c(C)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1c(C)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1c(C)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1c(C)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1c(C)cccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1c(C)cccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1c(C)cccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1c(C)cccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1c(C)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1c(C)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1c(C)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1c(C)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1c(C)cccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)CC1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)CC1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Cl)C(=N)C=C1", "products": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1ccc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1ccc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1ccc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1ccc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1ccc2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1ccc2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1ccc2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)c(Cl)c1", "products": "Cc1ccc([C]([O])C2C3CCC2C3)c(Cl)c1"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)c(Cl)c1", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)c(Cl)c1"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)c(Cl)c1", "products": "Cc1ccc(C(O)=CC2C=CCC2)c(Cl)c1"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)c(Cl)c1", "products": "Cc1ccc(C(=O)CC2C=CCC2)c(Cl)c1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2OC1(Cl)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(Cl)O2"}, {"reactants": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(Cl)O2.[O-]C", "products": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(Cl)O2"}, {"reactants": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(Cl)O2", "products": "COC1OC2OC1(Cl)C1C(=O)C21"}, {"reactants": "COC1OC2OC1(Cl)C1C(=O)C21.[O-]C", "products": "COC1OC2OC1(Cl)C1C2C1([O-])OC"}, {"reactants": "COC1OC2OC1(Cl)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(Cl)OC1OC2OC"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CF)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CF)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)CF)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)ccc1F", "products": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1F"}, {"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1F", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)c(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)c(OC)c1", "products": "COc1cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)ccc1F"}]}
